US04656193
1.9 g of 2,6-difluorobenzoylisocyanate were added to a solution of 2.47 g of 4-dl-menthyloxy-aniline in a mixture of 15 ml of diethyl ether and 15 ml of petroleum ether (60-80) while stirring at room temperature. After adding 35 ml of petroleum ether (60-80), stirring was continued for another hour, after which the formed prepcipitate was sucked off, washed with petroleum ether and dried. The desired product was obtained in a yield of 4.1 g; melting-point 189°-190° C. The starting aniline was obtained from the corresponding nitro compound by reduction with hydrogen under the influence of Raney nickel as a catalyst, ethyl acetate being used as a solvent. 1-Nitro-4-dl-menthyloxybenzene was prepared by reaction of dl-menthol with 1-fluoro-4-nitrobenzene in tert.-butanol as a solvent in the presence of potassium tert.-butoxide.

reactant | dl-menthol | CC1CCC(C(C1)O)C(C)C | C10H20O
reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert.-butanol | C(C)(C)(C)O | C4H10O
product | menthyloxybenzene | C1(CC(C(CC1)C(C)C)OC1=CC=CC=C1)C | C16H24O
